US06777443B2
The 1-[(R)-2-bromo-3-methylbutanoylamino]cyclopentanecarboxylic acid starting material is prepared essentially by methodology described in WO 99/55726 by condensation of (R)-2-bromo-3-methylbutanoic acid diisopropylamine salt (prepared from L-valine) with cycloleucine methyl ester hydrochloride.

reactant | (R)-2-bromo-3-methylbutanoic acid diisopropylamine salt | C(C)(C)NC(C)C.Br[C@@H](C(=O)O)C(C)C
reactant | cycloleucine methyl ester hydrochloride | Cl.COC(C1(N)CCCC1)=O
product | 1-[(R)-2-bromo-3-methylbutanoylamino]cyclopentanecarboxylic acid | Br[C@@H](C(=O)NC1(CCCC1)C(=O)O)C(C)C | C11H18BrNO3
